US07229986B2
1-[(4-Phenyl-1-piperidinyl)carbonyl]-1,2,3,4-tetrahydroquinoline
4-Nitrophenyl 3,4-dihydroquinoline-1(2H)-carboxylate obtained in 1) above was dissolved in DMSO (10 ml), and 4-phenylpiperidine hydrochloride (1.58 g, 7.97 mmol) and 4 N aqueous sodium hydroxide (2.09 ml, 8.36 mmol) were added thereto and stirred at room temperature for 22.5 hours. 60 ml ethyl acetate was added to the reaction solution which was then washed with an aqueous potassium carbonate solution and a saturated saline solution. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure, and the resultant residues were purified by silica gel column chromatography (developing solvent; hexane:ethyl acetate=2:1), whereby 2.10 g of the title compound was obtained as pale yellow liquid.

reactant | 4-phenylpiperidine hydrochloride | 7.97 mmol, 1.58 g | Cl.C1(=CC=CC=C1)C1CCNCC1
reactant | sodium hydroxide | 8.36 mmol, 4 N, 2.09 ml | [OH-].[Na+]
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 1-[(4-Phenyl-1-piperidinyl)carbonyl]-1,2,3,4-tetrahydroquinoline | 2.10 g | C1(=CC=CC=C1)C1CCN(CC1)C(=O)N1CCCC2=CC=CC=C12 | C21H24N2O
